US07307084B2
BL. 7-Benzyloxy-2-methyl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazole-5-carboxylic Acid Dimethylamide
5.8 g (13 mmol) 4-Benzyloxy-6-bromo-2-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole, 1.3 g (5.2 mmol) triphenylphosphine, 0.4 g (1.9 mmol) palladium(II) acetate and 80 ml (160 mmol) dimethylamine (2M in THF) were transferred to an autoclave and carbonylated (6 bar CO2) at 120° C. for 16 h. The catalyst was filtered off and the filtrate was concentrated in vacuo. The crystallization of the residue from diisopropyl ether afforded 3.7 g (65%) of the title compound as a white solid.

reactant | 4-Benzyloxy-6-bromo-2-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole | 13 mmol, 5.8 g | C(C1=CC=CC=C1)OC1=CC(=CC=2N(C(=NC21)C)COCC[Si](C)(C)C)Br | C21H27BrN2O2Si
reactant | triphenylphosphine | 5.2 mmol, 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dimethylamine | 160 mmol, 2M, 80 ml | CNC | C2H7N
reactant | CO2 | C(=O)=O | CO2
catalyst | palladium(II) acetate | 1.9 mmol, 0.4 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-Benzyloxy-2-methyl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazole-5-carboxylic Acid Dimethylamide | 3.7 g, 65% | CN(C(=O)C1=CC2=C(N=C(N2COCC[Si](C)(C)C)C)C(=C1)OCC1=CC=CC=C1)C | C24H33N3O3Si
